US09163021B2
2-(7-Fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-2-methyl-propionic acid methyl ester
To a stirred solution of 2-(7-fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-propionic acid methyl ester (8 g, 22.98 mmol) in dry THF (80 mL) was added Mel (1.85 mL, 29.87 mmol) and the flask was placed in a water bath. Potassium tert-butoxide (1M in THF, 29.87 mL, 29.87 mmol) was added over 10 minutes and the mixture was stirred for an additional 10 minutes. Then reaction was quenched with water and few drops of 0.2M HCl and then diluted with EtOAc. The organic layer was washed with water, brine, dried over sodium sulphate and evaporated in vacuo. The crude material was purified by silica gel column chromatography eluting with 0-20% EtOAc in Hexane to afford the title compound as light yellow solid (78%, 6.5 g).

reactant | 2-(7-fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-propionic acid methyl ester | 22.98 mmol, 8 g | COC(C(C)N1C=C(C=2C=NC=C(C21)F)I)=O | C11H10FIN2O2
reactant | Potassium tert-butoxide | 29.87 mmol, 1M, 29.87 mL | CC(C)([O-])C.[K+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-(7-Fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-2-methyl-propionic acid methyl ester | 6.5 g, 78% | COC(C(C)(C)N1C=C(C=2C=NC=C(C21)F)I)=O | C12H12FIN2O2
